US08536214B2
f) N-(5-((4-(hydroxymethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide
Ethyl-1-((1-(1-methylethylsulfonamido)-2,3-dihydro-1H-inden-5-yl)methyl)-3-(trifluoro methyl)-1H-pyrazole-4-carboxylate (0.196 mmol, 90 mg) was dissolved in THF (5 mL) and cooled in an ice bath under nitrogen. Di-isobutyl aluminium hydride (0.588 mmol, 0.588 mL) was added dropwise and the reaction stirred for 1.5 h. The reaction mixture was warmed to room temperature and stirred for a further 30 min before an additional 0.2 ml of di-isobutyl aluminium hydride was added and stirring continued for 30 min before quenching with MeOH followed by water. The mixture was concentrated before partitioning between EtOAc/water. The aq. layer was acidified with 5N HCl until all solids were in solution. The organic phase was collected, dried and concentrated and the residue purified by HPLC to give a colourless oil which crystallised on standing (63 mg, 0.151 mmol, 77%). 1H NMR (400 MHz, CDCl3) δ 1.43 (d, 6H) 1.95 (m, 1H) 2.65 (m, 1H) 2.80 (m, 1H) 3.00 (m, 1H), 3.24 (m, 1H) 4.20 (d, 1H) 4.65 (s, 2H) 4.95 (q, 1H) 5.28 (s, 2H) 7.13 (m, 2H) 7.44 (m, 2H).

reactant | Ethyl-1-((1-(1-methylethylsulfonamido)-2,3-dihydro-1H-inden-5-yl)methyl)-3-(trifluoro methyl)-1H-pyrazole-4-carboxylate | 0.196 mmol, 90 mg | C(C)OC(=O)C=1C(=NN(C1)CC=1C=C2CCC(C2=CC1)NS(=O)(=O)C(C)C)C(F)(F)F | C20H24F3N3O4S
reactant | Di-isobutyl aluminium hydride | 0.588 mmol, 0.588 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | di-isobutyl aluminium hydride | 0.2 ml | [H-].C(C(C)C)[Al+]CC(C)C
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-(5-((4-(hydroxymethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide | OCC=1C(=NN(C1)CC=1C=C2CCC(C2=CC1)NS(=O)(=O)C(C)C)C(F)(F)F | C18H22F3N3O3S
